US04226611
Ethyl N-carbobenzoxy-N-(di-sec-butylthiophosphinylmethyl)glycine (1 g., 0.0023 mole) was dissolved in 5 ml. of 30% hydrogen bromide in glacial acetic acid at 0° C. The mixture was stirred for one hour. Ether was added and the oily precipitate isolated by decanting the ether layer. The oil was washed twice with ether and then suspended in benzene and treated with propylene oxide. The solution was concentrated in vacuo to yield ethyl N-(di-sec-butylthiophosphinylmethyl)-glycine (0.04 g., 0.001 mole) as an oil, ND25 =1.3450.

reactant | Ethyl N-carbobenzoxy-N-(di-sec-butylthiophosphinylmethyl)glycine | 0.0023 mole, 1 g | C(C)C(N(CP(=S)(C(C)CC)C(C)CC)C(=O)OCC1=CC=CC=C1)C(=O)O | C21H34NO4PS
reactant | hydrogen bromide | Br | BrH
reactant | Ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl N-(di-sec-butylthiophosphinylmethyl)-glycine | 0.001 mole, 0.04 g | C(C)N(CC(=O)O)CP(=S)(C(C)CC)C(C)CC | C13H28NO2PS
